US09056874B2
5-Chloro-7-methyl-1-tosyl-1H-indole-4-carbaldehyde
To a solution of (5-chloro-7-methyl-1-tosyl-1H-indol-4-yl)methanol (3.3 g, 9.5 mmol) and N-ethyl-diisopropylamine (8.3 mL, 47.3 mmol) in CH2Cl2 (20 mL)/DMSO (1 mL) was added SO3.Py (4.5 g, 28.4 mmol) at 0° C. The mixture was stirred at 0° C. for 2.5 h, and then stirred at room temperature for 15 h. The reaction was quenched by MeOH. The mixture was stirred for 1 h. The mixture was partially concentrated. The mixture was diluted with H2O, and then the resulted solid was collected by filtration. The resulting residue was triturated with MeOH to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ 10.56 (s, 1H), 8.00 (d, J=3.80 Hz, 1H), 7.62 (d, J=3.80 Hz, 1H), 7.60 (d, J=8.60 Hz, 2H), 7.35 (d, J=8.60 Hz, 2H), 7.22 (s, 1H), 2.60 (s, 3H), 2.37 (s, 3H).

reactant | (5-chloro-7-methyl-1-tosyl-1H-indol-4-yl)methanol | 9.5 mmol, 3.3 g | ClC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)CO | C17H16ClNO3S
reactant | N-ethyl-diisopropylamine | 47.3 mmol, 8.3 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-7-methyl-1-tosyl-1H-indole-4-carbaldehyde | ClC1=C(C=2C=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C=O | C17H14ClNO3S
